US06573274B1
Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (450 mg) was suspended in N,N-dimethylformamide (5 ml) and 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (391 mg), 1-hydroxybenzotriazole (276 mg) and 4-bromobutanoic acid (318 mg) were added, which was followed by stirring at room temperature for 24 hr. Water (50 ml) was added to the reaction mixture under ice-cooling and the precipitated crystals were collected by filtration and dried under reduced pressure with heating to give methyl 3-(4-((4-bromobutyryl)amino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (436 mg) as pale-yellow crystals.

reactant | Methyl 3-(4-amino-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 450 mg | NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C16H15ClN4O2
reactant | 1-hydroxybenzotriazole | 276 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-bromobutanoic acid | 318 mg | BrCCCC(=O)O | C4H7BrO2
reactant | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 391 mg | Cl.CN(CCCN=C=NCC)C
product | methyl 3-(4-((4-bromobutyryl)amino)-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 436 mg | BrCCCC(=O)NC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)Cl | C20H20BrClN4O3
